US05840732
ii) Synthesis of 5-butylidene-3-[4-(2-methyl-imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 0.794 g (2.0 mmol) of 5-butylidene-3-[4-(2-methyl-imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 10 ml of methanol, 0.25 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 0.801 g (94.0%, light yellow solid) of the desired product.

reactant | 5-butylidene-3-[4-(2-methyl-imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 2.0 mmol, 0.794 g | C(CCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=C(N2)C)=O | C19H23N3O2S2
reactant | hydrochloric acid | 0.25 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 5-butylidene-3-[4-(2-methyl-imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=C(N2)C)=O | InChI=1S/C19H23N3O2S2.ClH/c1-3-4-8-15-18(23)21(19(24)26-15)11-5-6-12-25-17-10-7-9-16-20-14(2)13-22(16)17;/h7-10,13H,3-6,11-12H2,1-2H3;1H
